US07402595B2
4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzoic acid methyl ester
[Step 2] To a solution of 3-acetyl-6-bromo-4-phenyl-isochromen-1-one (1.03 g) in methanol (100 ml) were added 4-aminomethyl-benzoic acid methyl ester hydrochloride (3.02 g) and triethylamine (4.2 ml) and the mixture was stirred at room temperature for 18 hrs. The solvent was evaporated under reduced pressure, 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure, 4N hydrochloric acid ethyl acetate solution (5 ml) was added to the obtained residue, and the mixture was stirred at room temperature for 10 hrs. The solvent was evaporated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated sodium hydrogen carbonate solution and saturated brine and dried by adding sodium sulfate. The obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=19/1→3/1) to give the title compound (220 mg, 15%).

reactant | 3-acetyl-6-bromo-4-phenyl-isochromen-1-one | 1.03 g | C(C)(=O)C=1OC(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O | C17H11BrO3
reactant | 4-aminomethyl-benzoic acid methyl ester hydrochloride | 3.02 g | Cl.COC(C1=CC=C(C=C1)CN)=O
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
product | 4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzoic acid methyl ester | 220 mg, 15% | COC(C1=CC=C(C=C1)CN1C(C2=CC=C(C=C2C(=C1C(C)=O)C1=CC=CC=C1)Br)=O)=O | C26H20BrNO4
